US03953398
3,5-bis(1,1-dimethylbutyl)-4-hydroxycinnamonitrile was prepared by heating a mixture of 29 grams of 3,5-bis(1,1-dimethylbutyl)-4-hydroxybenzaldehyde, 25.5 grams of cyanoacetic acid, 75 milliliters of pyridine, and 3 milliliters of piperidine at 95° to 100° C. for 7 hours. The reaction mixture was poured into a solution of 50 milliliters of concentrated hydrochloric acid in 100 milliliters of water. The oil which precipitated was separated by extraction with petroleum ether and the extract was stripped under vacuum to a pot temperature of 50° C./13 mm. The residue, which weighed 32 grams, was a viscous liquid which crystallized slowly on standing.

reactant | 3,5-bis(1,1-dimethylbutyl)-4-hydroxybenzaldehyde | 29 grams | CC(CCC)(C)C=1C=C(C=O)C=C(C1O)C(CCC)(C)C | C19H30O2
reactant | cyanoacetic acid | 25.5 grams | C(#N)CC(=O)O | C3H3NO2
reactant | piperidine | 3 milliliters | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 50 milliliters | Cl | ClH
solvent | water | 100 milliliters | O | H2O
solvent | pyridine | 75 milliliters | N1=CC=CC=C1 | C5H5N
product | 3,5-bis(1,1-dimethylbutyl)-4-hydroxycinnamonitrile | CC(CCC)(C)C=1C=C(C=CC#N)C=C(C1O)C(CCC)(C)C | C21H31NO
